US07691882B2
2-(4-(2-Nitro-ethyl)-benzyloxy)-pyridine
To a solution of 2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine (21.0 g, 81.9 mmol) described in Manufacturing Example 2-1-3, acetic acid (21 mL) in dimethyl sulfoxide (200 mL) was added sodium borohydride (4.96 g, 131 mmol) at room temperature while cooling appropriately. After addition of sodium borohydride, the cooling bath was removed, followed by stirring for 15 minutes at room temperature. The reaction solution was partitioned into water and ethyl acetate. The ethyl acetate layer was washed with water twice and with saturated aqueous sodium chloride once, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:3) to obtain the title compound (16.3 g, 77.1%).

reactant | 2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | 81.9 mmol, 21.0 g | [N+](=O)([O-])/C=C/C1=CC=C(COC2=NC=CC=C2)C=C1 | C14H12N2O3
reactant | acetic acid | 21 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 131 mmol, 4.96 g | [BH4-].[Na+]
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
product | 2-(4-(2-Nitro-ethyl)-benzyloxy)-pyridine | 16.3 g, 77.1% | [N+](=O)([O-])CCC1=CC=C(COC2=NC=CC=C2)C=C1 | C14H14N2O3
